US04640913
(4-Tetradecyloxyphenyl)acetic acid
A mixture of about 75 g of 4-hydroxyphenylacetic acid, about 273.38 g of 1-tetradecylbromide, about 46.33 g of sodium hydroxide, about 5.0 g of trioctadecyl methylamine chloride and about 500 ml of water was refluxed for about 24 hours with stirring, cooled to room temperature, the aqueous layer decanted and the solid washed with water. The solid was refluxed for about 2 hours with stirring in about 500 ml of ethanol containing about 40 g of sodium hydroxide and about 40 ml of water. The solvents were removed and the residue heated at about 0.1 mm and about 200°-210° C. in a Kugelrohr. The residue was stirred with dilute hydrochloric acid and ethyl acetate on a steam bath until solution was complete. The warm solution was washed with brine, then the solvent was removed and the residue recrystallized sequentially from methanol and hexane, giving about 66 g of the desired title compound as a white solid, mp 86°-87° C.

reactant | 4-hydroxyphenylacetic acid | about 75 g | OC1=CC=C(C=C1)CC(=O)O | C8H8O3
reactant | 1-tetradecylbromide | about 273.38 g | C(CCCCCCCCCCCCC)Br | C14H29Br
reactant | sodium hydroxide | about 46.33 g | [OH-].[Na+]
catalyst | trioctadecyl methylamine chloride | about 5.0 g | [Cl-].C(CCCCCCCCCCCCCCCCC)C(N)(CCCCCCCCCCCCCCCCCC)CCCCCCCCCCCCCCCCCC
solvent | water | about 500 ml | O | H2O
product | (4-Tetradecyloxyphenyl)acetic acid | about 66 g | C(CCCCCCCCCCCCC)OC1=CC=C(C=C1)CC(=O)O | C22H36O3
